US09428509B2
6-(2-Chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-4-fluoro-2-methylbenzo[d]oxazole
(2-Chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)boronic acid (1 equiv), 6-bromo-4-fluoro-2-methylbenzo[d]oxazole (1.1 equiv), sodium carbonate (3 equiv) and [1,1′-Bisdiphenylphosphino)ferrocene]-dichloropalladium(II), complex with dichloromethane (0.1 equiv) were suspended in 1,4-dioxane/water, flushed with nitrogen, and stirred at 90° C. for 2 h. The reaction mixture was purified by silica gel chromatography (0 to 60% ethyl acetate in hexane) to give the title compound (72% yield). MS (ESI) m/z 517.3 [M+H]+.

reactant | (2-Chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)boronic acid | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2B(O)O)COCC[Si](C)(C)C)OC2CCCC2 | C17H27BClN3O4Si
reactant | 6-bromo-4-fluoro-2-methylbenzo[d]oxazole | 1.1 equiv | BrC1=CC2=C(N=C(O2)C)C(=C1)F | C8H5BrFNO
reactant | sodium carbonate | 3 equiv | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloromethane | 0.1 equiv | ClCCl | CH2Cl2
solvent | 1,4-dioxane water | O1CCOCC1.O
catalyst | dichloropalladium(II) | Cl[Pd]Cl
product | 6-(2-Chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-4-fluoro-2-methylbenzo[d]oxazole | 72% yield | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C(=C2)F)COCC[Si](C)(C)C)OC2CCCC2 | C25H30ClFN4O3Si
